US07829580B2
Potassium carbonate (74 mg) was added to a solution of (E)-4-(acetylsulfanyl)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(methoxycarbonylmethyl)-1H-tetrazol-5-yl]methylidene}piperidine hydrochloride (128 mg) in methanol (5 ml). After being stirred at room temperature for 15 minutes, the mixture was partitioned between water and ethyl acetate. The organic layer was separated, washed with a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. Concentration under reduced pressure gave a residue, which was purified by preparative HPLC (YMC-Pack ODS-A; YMC, eluent: acetonitrile/0.024N hydrochloric acid, 30/70, v/v) to give (E)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(methoxycarbonylmethyl)-1H-tetrazol-5-yl]methylidene}-4-sulfanylpiperidine hydrochloride (57 mg, gross yield: 49%, a part of this product had been hydrolyzed at the methyl ester moiety). This product (40 mg) was treated with hydrochloric acid in a similar manner to that described in Example 134, and the resulting product was purified by preparative HPLC (YMC-Pack ODS-A; YMC, eluent: acetonitrile/0.024 N hydrochloric acid, 25/75, v/v) to afford the title compound (13 mg, yield: 34%) as a colourless amorphous solid.

reactant | Potassium carbonate | 74 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (E)-4-(acetylsulfanyl)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(methoxycarbonylmethyl)-1H-tetrazol-5-yl]methylidene}piperidine hydrochloride | 128 mg | Cl.C(C)(=O)SC1/C(/CN(CC1)C(C(=O)C1CC1)C1=C(C=CC=C1)F)=C/C1=NN=NN1CC(=O)OC
solvent | methanol | 5 ml | CO | CH4O
product | (E)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(methoxycarbonylmethyl)-1H-tetrazol-5-yl]methylidene}-4-sulfanylpiperidine hydrochloride | yield: 49% | Cl.C1(CC1)C(C(C1=C(C=CC=C1)F)N1C\C(\C(CC1)S)=C/C1=NN=NN1CC(=O)OC)=O | InChI=1S/C21H24FN5O3S.ClH/c1-30-19(28)12-27-18(23-24-25-27)10-14-11-26(9-8-17(14)31)20(21(29)13-6-7-13)15-4-2-3-5-16(15)22;/h2-5,10,13,17,20,31H,6-9,11-12H2,1H3;1H/b14-10+;
